US05286728
2.5 g of 4-ethylmercaptoacetylaminobenzoic acid are introduced into 30 ml of dimethylformamide, and 1.75 g of N,N-carbonyldiimidazole are added. The mixture is stirred for 10 minutes at room temperature. At 80°, 1.75 g of 1-[2-(4-chlorophenyl)ethyl]piperazine are added thereto. The mixture is stirred for a further 45 minutes at 80°. The reaction solution is concentrated by evaporation and the oil is chromatographed. The hydrochloride is recrystallised from ethanol/ether, yielding 1-[4-(ethylmercaptoacetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 229°-231°.

reactant | 4-ethylmercaptoacetylaminobenzoic acid | 2.5 g | C(C)SCC(=O)NC1=CC=C(C(=O)O)C=C1 | C11H13NO3S
reactant | N,N-carbonyldiimidazole | 1.75 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[2-(4-chlorophenyl)ethyl]piperazine | 1.75 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[4-(ethylmercaptoacetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)SCC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C23H28ClN3O2S.ClH/c1-2-30-17-22(28)25-21-9-5-19(6-10-21)23(29)27-15-13-26(14-16-27)12-11-18-3-7-20(24)8-4-18;/h3-10H,2,11-17H2,1H3,(H,25,28);1H
